US06974802B2
b) 3-benzyloxycarbonylpropionic acid chloromethyl ester
Succinic acid monobenzyl ester (4.16 g, 20 mmole) was dissolved in dioxane (20 ml). To the solution was added tetrabutylammonium hydroxide aqueous solution (40%, 11.6 ml, 18 mmole). The solution was dried in vacuo and coevaporated with toluene several times. The residue was dissolved in methylene chloride (60 ml) and then chloroiodomethane (14.5 ml, 200 mmole) was added to the solution. The reaction solution was stirred for 18 hr and then evaporated and the product was isolated with silica gel column chromatography. 3.64 g

reactant | Succinic acid monobenzyl ester | 20 mmole, 4.16 g | C(C1=CC=CC=C1)OC(CCC(=O)O)=O | C11H12O4
reactant | tetrabutylammonium hydroxide | 18 mmole, 11.6 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | chloroiodomethane | 200 mmole, 14.5 ml | ClCI | CH2ClI
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-benzyloxycarbonylpropionic acid chloromethyl ester | ClCOC(CCC(=O)OCC1=CC=CC=C1)=O | C12H13ClO4
